US07368578B2
Diethyl (E)-2-(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)ethenylphosphonate (0.89 g), 5% palladium on carbon (1.0 g) and tetrahydrofuran (50 mL) were subjected to catalytic reduction under a hydrogen atmosphere and atmospheric pressure. The catalyst was filtered off and the filtrate was concentrated to give diethyl 2-(3-hydroxy-1-phenyl-1H-pyrazol-4-yl)ethylphosphonate as colorless crystals (0.54 g, yield 76%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 121-122° C.

reactant | Diethyl (E)-2-(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)ethenylphosphonate | 0.89 g | C(C1=CC=CC=C1)OC1=NN(C=C1/C=C/P(OCC)(OCC)=O)C1=CC=CC=C1 | C22H25N2O4P
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | diethyl 2-(3-hydroxy-1-phenyl-1H-pyrazol-4-yl)ethylphosphonate | 0.54 g, yield 76% | OC1=NN(C=C1CCP(OCC)(OCC)=O)C1=CC=CC=C1 | C15H21N2O4P
